US08648066B2
A solution of tert-butyl 5-bromo-3-(N-(methylsulfonyl)methylsulfonamido)pyridin-2-ylcarbamate (68 mg, 0.15 mmol) and N,N-dimethylethylenediamine (169 uL, 1.5 mmol) in dioxane (1 mL) was stirred at rt for 70 min. After diluting with ethyl acetate, the mixture was washed with aqueous citric acid (10%) followed by water. The organic phase was then dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was then diluted with dichloromethane which was then washed with 1 N HCl. After partitioning, the organic phase was dried over magnesium sulfate, filtered, and concentrated in vacuo to provide tert-butyl 5-bromo-3-(methylsulfonamido)pyridin-2-ylcarbamate (57 mg, 0.15 mmol, quantitative yield) as a white solid. 1H NMR (400 MHz, CDCl3) δ 8.24 (d, 1H), 8.07 (d, 1H), 2.98 (s, 3H), 1.54 (s, 9H); MS (EI) for C10H16BrN3O4S: 310, 312 (Br isotopes, MH+-t-butyl).

reactant | tert-butyl 5-bromo-3-(N-(methylsulfonyl)methylsulfonamido)pyridin-2-ylcarbamate | 0.15 mmol, 68 mg | BrC=1C=C(C(=NC1)NC(OC(C)(C)C)=O)N(S(=O)(=O)C)S(=O)(=O)C | C12H18BrN3O6S2
reactant | N,N-dimethylethylenediamine | 1.5 mmol, 169 uL | CN(CCN)C | C4H12N2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 5-bromo-3-(methylsulfonamido)pyridin-2-ylcarbamate | 0.15 mmol, 57 mg, quantitative yield | BrC=1C=C(C(=NC1)NC(OC(C)(C)C)=O)NS(=O)(=O)C | C11H16BrN3O4S
